US04863925
2-[2-methyl-2,5-diaza-7,9-dithiabicyclo-(4,3, 0)-nonane-8-ylidene]-5,5-dimethyl-1,3-cyclohexanedione. (compound No. 5).
To a suspension of 5.68 g (0.02 mole) of glyoxal-sodium bisulfite in 30 ml of water was added dropwise with ice-cooling 1.5 g (0.02 mole) of N-methyl-ethylenediamine. Then to this solution was added dropwise with ice-cooling the dithiolate solution prepared in the manner shown below; To mixture of 2.8 g (0.02 mole) of dimedone and 1.6 g (0.021 mole) of carbon disulfide in 20 ml of dimethylsulfoxide was added at room temperature 2.7 g (0.044 mole) of powdered potassium hydroxide and the mixture was stirred for 1 hour.

reactant | glyoxal-sodium bisulfite | 0.02 mole, 5.68 g | S([O-])(O)=O.[Na+].C(=O)C=O
reactant | N-methyl-ethylenediamine | 0.02 mole, 1.5 g | CNCCN | C3H10N2
reactant | dithiolate | S1SC(C=C1)C(=O)[O-]
reactant | dimedone | 0.02 mole, 2.8 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | carbon disulfide | 0.021 mole, 1.6 g | C(=S)=S | CS2
reactant | potassium hydroxide | 0.044 mole, 2.7 g | [OH-].[K+]
solvent | water | 30 ml | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-[2-methyl-2,5-diaza-7,9-dithiabicyclo-(4,3, 0)-nonane-8-ylidene]-5,5-dimethyl-1,3-cyclohexanedione | CN1C2SC(SC2NCC1)=C1C(CC(CC1=O)(C)C)=O | C14H20N2O2S2
